US06235731B1
Concentrated hydrochloric acid (1.5 ml) was added to N-[1-[3-(4-tert-butoxycarbonylaminophenyl)propan-1-yl]piperidin-4-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide (350 mg, 0.656 mmol) and the mixture was stirred at room temperature for 2 hours. Ethanol was added to the mixture to give N-[1-[3-(4-aminophenyl)propan-1-yl]piperidin-4-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide trihydrochloride as orange crystals (251 mg, 71%), which were collected by filtration and washed with ethanol.

reactant | hydrochloric acid | 1.5 ml | Cl | ClH
reactant | N-[1-[3-(4-tert-butoxycarbonylaminophenyl)propan-1-yl]piperidin-4-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | 0.656 mmol, 350 mg | C(C)(C)(C)OC(=O)NC1=CC=C(C=C1)CCCN1CCC(CC1)NC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | C29H35N5O3S
solvent | Ethanol | C(C)O | C2H6O
product | N-[1-[3-(4-aminophenyl)propan-1-yl]piperidin-4-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide trihydrochloride | 251 mg, 71% | Cl.Cl.Cl.NC1=CC=C(C=C1)CCCN1CCC(CC1)NC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | InChI=1S/C24H27N5OS.3ClH/c25-18-8-6-17(7-9-18)3-2-12-28-13-10-19(11-14-28)27-24(30)21-15-20-16-26-22-4-1-5-23(31-21)29(20)22;;;/h1,4-9,15-16,19H,2-3,10-14,25H2,(H,27,30);3*1H
